US08084448B2
A. 3-Vinylbenzoyl Chloride
To a mixture of 3-vinylbenzoic acid (1.0 g, 6.75 mmol) in CH2Cl2 (20 mL) is added oxalyl chloride (2.35 mL, 3.42 g, 26.9 mmol) and 1 drop of DMF. After 2 h the solvent is removed under reduced pressure and the residue is redissolved in CH2Cl2 and concentrated again (4×) to afford the title compound which is used without further purification.

reactant | 3-vinylbenzoic acid | 6.75 mmol, 1.0 g | C(=C)C=1C=C(C(=O)O)C=CC1 | C9H8O2
reactant | oxalyl chloride | 26.9 mmol, 2.35 mL, 3.42 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 3-Vinylbenzoyl Chloride | C(=C)C=1C=C(C(=O)Cl)C=CC1 | C9H7ClO
